US07534911B2
Preparation of 2-Chloro-1-formylbenzene-5-sulphonic acid (II)
2-chlorobenzaldehyde 500 g (3.35 moles) was added to 23% oleum 1050 g (1.35 moles), and the contents were cooled to 0 to 5° C. The reaction mixture was stirred for 2.5 hours between 0-15° C. To this stirred solution, 660 g of 65% oleum (2.41 moles) was added over a period of 2.5 hours, maintaining the temperature below 15° C. The reaction mass was stirred and allowed to come to a temperature of 25-30° C.

reactant | 2-chlorobenzaldehyde | 3.35 moles, 500 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | oleum | 1.35 moles, 1050 g | OS(=O)(=O)O.O=S(=O)=O
reactant | oleum | 2.41 moles, 660 g | OS(=O)(=O)O.O=S(=O)=O
product | 2-Chloro-1-formylbenzene-5-sulphonic acid | ClC1=C(C=C(C=C1)S(=O)(=O)O)C=O | C7H5ClO4S
